US09085555B2
D. (3-Acetyl-5-methyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid
A solution of (3-acetyl-5-methyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid tert-butyl ester (126 mg, 0.37 mmol) and TFA (0.171 mL, 2.22 mmol) in CH2Cl2 (5 mL) was stirred at RT for 24 h. Solvents were removed under reduced pressure, Et2O was added and the precipitate was filtered, washed with Et2O and dried under high vacuum. The material thus obtained was used without further purification in the next step. MS (UPLC/MS): 234 [M+H]+, 232 [M−H]−, 465 [2M−H]−; tR (HPLC conditions f): 0.53 min.

reactant | (3-acetyl-5-methyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid tert-butyl ester | 0.37 mmol, 126 mg | C(C)(C)(C)OC(CN1N=C(C=2C1=CN=C(C2)C)C(C)=O)=O | C15H19N3O3
reactant | TFA | 2.22 mmol, 0.171 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (3-Acetyl-5-methyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid | C(C)(=O)C1=NN(C2=CN=C(C=C21)C)CC(=O)O | C11H11N3O3
